US09340506B2
Methyl 2-diazo-2-(4-tetrahydropyran-4-ylsulfonylphenyl)acetate (4.0 g, 12.34 mmol) was dissolved in DCM (40 mL) under argon atmosphere. To this solution, 4-hydroxy tetrahydropyran (1.5 g, 14.8 mmol) was added followed by rhodium (II) acetate dimer (0.109 g, 0.24 mmol). Mixture was stirred at 25° C. for 30 min. Reaction mixture was diluted with DCM (10 mL), organic layer was washed with water followed by brine solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give a crude product as methyl 2-tetrahydropyran-4-yloxy-2-(4-tetrahydropyran-4-ylsulfonylphenyl)acetate (4.1 g).

reactant | Methyl 2-diazo-2-(4-tetrahydropyran-4-ylsulfonylphenyl)acetate | 12.34 mmol, 4.0 g | [N+](=[N-])=C(C(=O)OC)C1=CC=C(C=C1)S(=O)(=O)C1CCOCC1 | C14H16N2O5S
reactant | 4-hydroxy tetrahydropyran | 14.8 mmol, 1.5 g | OC1CCOCC1 | C5H10O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 0.24 mmol, 0.109 g | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | methyl 2-tetrahydropyran-4-yloxy-2-(4-tetrahydropyran-4-ylsulfonylphenyl)acetate | 4.1 g | O1CCC(CC1)OC(C(=O)OC)C1=CC=C(C=C1)S(=O)(=O)C1CCOCC1 | C19H26O7S
